### PR TITLE
[Merged by Bors] - chore: use `intro x y z` instead of `intros x y z`

### PR DESCRIPTION
**Pull request by kmill**
`intros x y z` is an old pre-Lean-4 tactic, back from the days when there was a singular and plural version of `intro`. The `intros` tactic (with arguments) doesn't do anything that `intro` doesn't.

Methodology: search-and-replace `intros ([^<])` for `intro \1` then fix any mistakes.

I made this while investigating the deprecation of `intros` in core Lean.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Functor/OfSequence.lean [hunk 1]
```diff
@@ -67,17 +67,13 @@ lemma map_le_succ (i : ℕ) : map f i (i + 1) (by omega) = f i := by
 @[reassoc]
 lemma map_comp (i j k : ℕ) (hij : i ≤ j) (hjk : j ≤ k) :
     map f i k (hij.trans hjk) = map f i j hij ≫ map f j k hjk := by
-  revert X f j k
-  induction i with
+  induction i generalizing X j k with
```
Comment (kmill) [inline Mathlib/CategoryTheory/Functor/OfSequence.lean:70]: Flagging this. I adjusted the style of this proof, to use `generalizing` instead of `revert`/`intro`.

File: Mathlib/Data/List/Sublists.lean [hunk 2]
```diff
@@ -51,7 +51,7 @@ theorem sublists'_eq_sublists'Aux (l : List α) :
     sublists' l = l.foldr (fun a r => sublists'Aux a r r) [[]] := by
   simp only [sublists', sublists'Aux_eq_array_foldl]
   rw [← List.foldr_hom Array.toList]
-  · intros _ _; congr
+  · intros; congr
```
Comment (bryangingechen) [inline Mathlib/Data/List/Sublists.lean:54]: In case anyone else looks at this PR in the future; aside from the other flagged comment, this is the only file where `intros` is not replaced with `intro`. (This looks ifne to me though.)

**Comment by bryangingechen** [comment]
Thanks!
bors r+
